US07223769B2
In 5 ml of tetrahydrofuran was suspended 0.13 g of sodium hydride (60% in oil), to which 5.4 ml of a 0.5 mol/l solution containing 1,1-dimethoxy-2-propanol in tetrahydrofuran was added dropwise at 0° C., followed by stirring for 10 minutes. To this was added dropwise 0.5 ml of tetrahydrofuran containing 0.4 g of 4,6-dichloropyrimidine dissolved therein, followed by stirring at 0° C. for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.16 g of 4-chloro-6-(2,2-dimethoxy-1-methylethoxy)pyrimidine.

reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | 1,1-dimethoxy-2-propanol | COC(C(C)O)OC | C5H12O3
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml, 0.4 g | O1CCCC1 | C4H8O
product | 4-chloro-6-(2,2-dimethoxy-1-methylethoxy)pyrimidine | 0.16 g | ClC1=NC=NC(=C1)OC(C(OC)OC)C | C9H13ClN2O3
